US08877758B2
15.2 7-ethyl-2-piperazin-1-yl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine (V-6)
3 g 2-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine are combined with 23.3 g piperazine and heated to 145° C. for 5 hours. Excess piperazine is distilled off and the residue is treated with dichloromethane and methanol. Precipitated product is suction filtered and purified by chromatography (Alox, dioxane/toluene/methanol/NH4OH 50/20/20/2). 1.95 g product are obtained.

reactant | 2-chloro-7-ethyl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | 3 g | ClC=1C=NC2=C(CCN(CC2)CC)N1 | C10H14ClN3
reactant | piperazine | 23.3 g | N1CCNCC1 | C4H10N2
product | 7-ethyl-2-piperazin-1-yl-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine | 1.95 g | C(C)N1CCC2=C(CC1)N=CC(=N2)N2CCNCC2 | C14H23N5
